US06204380B1
First, 20.0 g of methylmalonic acid diethyl ester was dissolved in a mixed solution of 30 g of water and 30 g of ethanol. To this solution was added dropwise 9.6 g of 48% aqueous NaOH solution, and the mixture was vigorously stirred at room temperature for 7 hours. After completion of the reaction, the reaction solution was adjusted to pH 3 by the addition of 35% hydrochloric acid and concentrated under reduced pressure. To the residue was added 80 g of water, and the mixture was extracted twice with 40 g of ethyl acetate. The organic layers were combined and concentrated under reduced pressure. To the residue was added 100 g of n-hexane, and the precipitated crystals were collected by filtration. The filtrate was concentrated under reduced pressure to give 16.1 g of methylmalonic acid monoethyl ester.

reactant | methylmalonic acid diethyl ester | 20.0 g | C(C)OC(C(C(=O)OCC)C)=O | C8H14O4
reactant | ethanol | 30 g | C(C)O | C2H6O
reactant | NaOH | 9.6 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 30 g | O | H2O
product | methylmalonic acid monoethyl ester | 16.1 g | C(C)OC(C(C(=O)O)C)=O | C6H10O4
